US05559113
5 ml of freshly distilled tetrahydrofuran, 120 mg (1 mmol) of 4-fluorophenol and 270 mg (1 mmol) of triphenylphosphine are added, under nitrogen, to 368 mg (1 mmol) of 1-triphenylmethyl-4-(3-hydroxypropyl)-1H-imidazole. The resulting mixture is cooled and stirred for 5 min. 180 mg (1 mmol) of diethyl azodicarboxylate in 5 ml of tetrahydrofuran are then slowly added. Stirring is continued at room temperature for 3 days under nitrogen. The solvent is then evaporated under reduced pressure and the residue is subjected to chromatography on a column of silica gel, using diethyl ether as eluent, to give 1-triphenylmethyl-4-[3-(4-fluorophenoxy)propyl]-1H-imidazole.

reactant | 4-fluorophenol | 1 mmol, 120 mg | FC1=CC=C(C=C1)O | C6H5FO
reactant | triphenylphosphine | 1 mmol, 270 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-triphenylmethyl-4-(3-hydroxypropyl)-1H-imidazole | 1 mmol, 368 mg | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O
reactant | diethyl azodicarboxylate | 1 mmol, 180 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-triphenylmethyl-4-[3-(4-fluorophenoxy)propyl]-1H-imidazole | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCOC1=CC=C(C=C1)F)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H27FN2O
